US07781426B2
Sodium borohydride (62.3 mg, 1.65 mmol) was added to a stirred solution of ethyl (trans-4-{[ethyl(2-formylpyridin-3-yl)amino]methyl}cyclohexyl)acetate (136.9 mg, 0.412 mmol) in EtOH (10 mL) at room temperature. The reaction was stirred at room temperature for 1 h, then diluted with water and most of the EtOH was removed in vacuo. The resulting aqueous slurry was extracted with EtOAc (3×20 mL) and the combined extracts were washed with brine (5 mL), dried (Na2SO4) and concentrated in vacuo to afford ethyl [trans-4-({ethyl[2-(hydroxymethyl)pyridin-3-yl]amino}methyl)cyclohexyl]acetate. LCMS calc.=335.2; found=335.3 (M+1)+.

reactant | Sodium borohydride | 1.65 mmol, 62.3 mg | [BH4-].[Na+]
reactant | ethyl (trans-4-{[ethyl(2-formylpyridin-3-yl)amino]methyl}cyclohexyl)acetate | 0.412 mmol, 136.9 mg | C(C)N(C=1C(=NC=CC1)C=O)C[C@@H]1CC[C@H](CC1)CC(=O)OCC | C19H28N2O3
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | water | O | H2O
product | ethyl [trans-4-({ethyl[2-(hydroxymethyl)pyridin-3-yl]amino}methyl)cyclohexyl]acetate | C(C)N(C=1C(=NC=CC1)CO)C[C@@H]1CC[C@H](CC1)CC(=O)OCC | C19H30N2O3
